2110-09-09 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2110-9-8**] 07:00 PM
 ERCP - At [**2110-9-8**] 08:30 PM
   Allergies:
   Valium (Oral) (Diazepam)
   agitation;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2110-9-9**] 04:10 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2110-9-8**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-9-9**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 35.8
C (96.4
   HR: 94 (91 - 112) bpm
   BP: 109/59(70) {87/48(60) - 122/71(90)} mmHg
   RR: 23 (15 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 20 (13 - 20)mmHg
   Total In:
                                                                  8,780 mL
                                                                  1,317 mL
   PO:
   TF:
   IVF:
                                                                  2,280 mL
                                                                  1,317 mL
   Blood products:
   Total out:
                                                                    555 mL
                                                                    110 mL
   Urine:
                                                                    180 mL
                                                                 (20cc/hr)
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,225 mL
                                                                  1,207 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 97%
   ABG: 7.16/40/162/15/-13
   PaO2 / FiO2: 324
   Physical Examination
   General: Alert, oriented, conversing easily and in full sentences
   HEENT: Slightly icteric sclera, dry mucus membranes; no lesions
   Neck: supple, JVP not elevated; RIJ in place w/o bleeding or erythema
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi;
   slightly prolonged expiratory phase; slight paradoxical breathing w
   upper abdominal prominence on exhalation consistent w forced exhalation
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: hyperactive bowel sounds; only mild tenderness and no tap
   tenderness; distended but not taut; some tympany; no caput or other
   sequelae of chronic liver disease
   GU: foley in place
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   81 K/uL
   12.7 g/dL
   123 mg/dL
   1.9 mg/dL
   15 mEq/L
   4.6 mEq/L
   35 mg/dL
   112 mEq/L
   142 mEq/L
   37.5 %
   32.0 K/uL
        [image002.jpg]
                             [**2110-9-8**]  11:41 PM
                             [**2110-9-9**]  03:54 AM
   WBC
   32.0 (11.4)
   Hct
   37.5
   Plt
   81
   Cr
   1.9
   TCO2
   15
   Glucose
   123
   Other labs:
    PT / PTT / INR:15.2/27.6/1.3,
   ALT / AST:142/66 (162/69), Alk Phos / T Bili:184/10.2 (218/10.5),
   Amylase / Lipase:194/216(19),
   Lactic Acid:1.8 mmol/L, Albumin 3.1, Ca++:6.8 mg/dL (c7.52), Mg++:1.7
   mg/dL, PO4:4.1 mg/dL
   DIFFERENTIAL
                                    Neuts
                                    Bands
                                   Lymphs
                                    Monos
                                     Eos
                                    Baso
                                    Atyps
                                    Metas
                                   Myelos
   [1][**2110-9-8**] 02:19PM
                                    69[1]
                                     13*
                                     7*
                                      2
                                      0
                                      0
                                      0
                                     6*
                                     3*
   CVO2: 79
   MICRO:
   Bld cx pending x2
   MRSA screen
   IMAGING:
   CXR today
   Assessment and Plan
   ASSESSMENT AND PLAN
   This is an 80 year old man, in fairly good general health, who presents
   with acute illness and labs and imaging consistent with stones in the
   common bile duct leading to cholangitis.
   .
   RESPIRATORY DISTRESS
   Long expiratory phase suggestive of airway inflammation though no
   wheezing heard on exam and air movement remains intact.  This is most
   likely due to pleural fluid.  Other possible causes  include upper
   airway constriction, laryngeal spasm, although any upper airway
   restriction doesn
t seem to be the case.  ABG showed an AG and NAG
   metabolic acidosis with a respiratory acidosis.  AG acidosis most
   likely due to lactic acidosis in the setting of sepsis.  NAG likely due
   to NS IVF. His respiratory acidosis is concerning due to his inability
   to fully compensate for his metabolic acidosis.  In spite of
   noninvasive interventions, his repeat ABGs have not shown much change.
   - anesthesia c/s with plan to intubate
   - repeat abgs
   - f/u as outpt for potential OSA
   .
   HYPOTENSION
   Consistent with sepsis. Requiring decreasing amount of levophed.
   Continue aggressive IVF boluses, hope to dial down levophed.
   - consider a-line placement
   - MAP>65
   - replace cvl
   .
   CHOLANGITIS
   Currently requiring levophed; recent call from [**Hospital3 474**] yields
   news of confirmed GNRs on blood cx consistent with clinical history
   suggesting bacteremia. While writing this note, went to and returned
   from ERCP and had a stent with reportedly copious drainage.
   - post ERCP labs 2 hrs post procedure -- amylase/lipase to eval for
   pancreatitis, liver labs as post-procedure baseline to eval for ongoing
   improvement/failure to improve over next day
   - dilaudid for pain
   - zosyn q6h, renal dosing at 2.25 g IV q6h, follow Cr
   - f/u with OSH cx which grew [**3-22**] GNRs
   - once clearly stable, transfer West to surgery, Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] to be
   attending
   - add on vanc + cipro for broader coverage
   .
   ACUTE RENAL FAILURE
   C/w sepsis-induced pre-renal failure. Follow lytes in setting of BP
   support and aggressive hydration.
   - UA and urine lytes if Cr not improving
   - check previous outside records for baseline Cr values
   .
   ABDOMINAL PAIN
   Consistent with cholangitis. Non-peritoneal exam before going to ERCP.
   Expect some post-procedure pain. Treat with dilaudid. Follow serial
   abdominal exams to eval for emerging peritoneal process. Lipase has
   significantly increased.  This is concerning for post-ERCP pancreatitis
   - get PM lipase level
   - serial abdominal exams
   - consider IVF maintenance fluids
   .
   HYPERTENSION
   Holding lisinopril in setting of bacteremia, pressor need, elevated
   creatinine, etc.
   .
   FEN: NPO. Fluid boluses.
   .
   Prophylaxis: Pneumoboots, SC heparin
   .
   Access: CVL from [**Hospital3 474**]; leaving in place for now, would
   change out if not on clear and rapid course of recovery
   .
   Code:  Full (discussed with patient)
   .
   Communication: Patient and family
   .
   Disposition: to SICU West once stable
   .
   ICU Care
   Nutrition: NPO. Fluid boluses.
   Glycemic Control:
   Lines:
   Multi Lumen - [**2110-9-8**] 07:00 PM (replace today)
   20 Gauge - [**2110-9-8**] 07:42 PM
   Prophylaxis:
   DVT: Pneumoboots, SC heparin
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full (discussed with patient)
   Disposition: Maintain ICU status
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22);

2110-09-10 07:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2110-9-9**] 09:16 AM
 INVASIVE VENTILATION - START [**2110-9-9**] 09:50 AM
 MULTI LUMEN - START [**2110-9-9**] 08:00 PM
 MULTI LUMEN - STOP [**2110-9-9**] 10:45 PM
   [**9-7**]:
   - intubated today as in ventilatory failure
   - A-line placed
   - CVL re-sited to L subclavian
   - added cipro and vanc in addition to zosyn
   - pm lytes showed worsening Cr 2.7, morning cr was 1.9, to work up ARF:
   UA, urine lytes were sent. FeNa 0.5 (pre-renal)
   - sepsis treatment: lactate 1.9, MAP around 65, CVP 7-10, ScvO2 93% UOP
   >30cc/hr. Repeat ABGs, lactate, and ScvO2 good. MAP and CVP meet
   early-goal directed therapy goals as well
   - extremely sensitive to levophed. When levophed bag had to be changed,
   it was held for a few seconds, and BP fell precipitously.
   - son flew in from out of state, was in briefly during the middle of
   the night. He was updated. will come back today
   Allergies:
   Valium (Oral) (Diazepam)
   agitation;
   Last dose of Antibiotics:
   Vancomycin - [**2110-9-9**] 10:35 AM
   Ciprofloxacin - [**2110-9-9**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2110-9-10**] 04:00 AM
   Infusions:
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2110-9-9**] 11:09 AM
   Fentanyl - [**2110-9-9**] 11:09 AM
   Pantoprazole (Protonix) - [**2110-9-9**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2110-9-9**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-9-10**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 63 (63 - 96) bpm
   BP: 108/59(76) {92/45(63) - 129/77(125)} mmHg
   RR: 18 (10 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 7 (7 - 21)mmHg
   Mixed Venous O2% Sat: 93 - 99
   Total In:
                                                                  3,256 mL
                                                                  1,296 mL
   PO:
   TF:
   IVF:
                                                                  3,256 mL
                                                                  1,296 mL
   Blood products:
   Total out:
                                                                    579 mL
                                                                    464 mL
   Urine:
                                                                    579 mL
                                                                    460 mL
   NG:
                                                                      4 mL
   Stool:
   Drains:
   Balance:
                                                                  2,677 mL
                                                                    832 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (500 - 600) mL
   Vt (Spontaneous): 476 (476 - 476) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   Compliance: 42.9 cmH2O/mL
   SpO2: 99%
   ABG: 7.29/32/64/15/-9
   Ve: 10.4 L/min
   PaO2 / FiO2: 160
   Physical Examination
   General: Alert, oriented, conversing easily and in full sentences
   HEENT: Slightly icteric sclera, dry mucus membranes; no lesions
   Neck: supple, JVP not elevated; RIJ in place w/o bleeding or erythema
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi;
   slightly prolonged expiratory phase; slight paradoxical breathing w
   upper abdominal prominence on exhalation consistent w forced exhalation
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: hyperactive bowel sounds; only mild tenderness and no tap
   tenderness; distended but not taut; some tympany; no caput or other
   sequelae of chronic liver disease
   GU: foley in place
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   81 K/uL
   12.2 g/dL
   134 mg/dL
   2.8 mg/dL
   15 mEq/L
   3.5 mEq/L
   51 mg/dL
   113 mEq/L
   139 mEq/L
   34.4 %
   38.0 K/uL
        [image002.jpg]
                             [**2110-9-9**]  09:10 AM
                             [**2110-9-9**]  11:41 AM
                             [**2110-9-9**]  01:33 PM
                             [**2110-9-9**]  04:43 PM
                             [**2110-9-9**]  05:06 PM
                             [**2110-9-9**]  08:16 PM
                             [**2110-9-9**]  08:35 PM
                             [**2110-9-10**]  02:29 AM
                             [**2110-9-10**]  05:52 AM
                             [**2110-9-10**]  06:36 AM
   WBC
   39.8
   38.0
   Hct
   35.9
   34.4
   Plt
   72
   81
   Cr
   2.7
   2.7
   2.8
   TCO2
   13
   16
   15
   15
   16
   16
   Glucose
   192
   161
   134
   Other labs:
   PT / PTT / INR:
   ALT / AST:105/44, Alk Phos / T Bili:142/7.5, Amylase / Lipase:194/214,
   Lactic Acid:1.6 mmol/L, Albumin:2.6 g/dL, LDH:263 IU/L, Ca++:6.4 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.2 mg/dL
   DIPSTICK URINALYSIS
                                    Blood
                                   Nitrite
                                   Protein
                                   Glucose
                                   Ketone
                                   Bilirub
                                   Urobiln
                                     pH
                                    Leuks
   [1][**2110-9-9**] 01:33PM
                                     LG
                                     NEG
                                     100
                                     TR
                                     NEG
                                     MOD
                                     NEG
                                     5.5
                                     TR
   MICROSCOPIC URINE EXAMINATION
                                     RBC
                                     WBC
                                   Bacteri
                                    Yeast
                                     Epi
                                   TransE
                                   RenalEp
   [2][**2110-9-9**] 01:33PM
                                     69*
                                      5
                                    NONE
                                    NONE
                                      0
   URINE CASTS
                                   CastGr
   [3][**2110-9-9**] 01:33PM
                                     6*
   URINE CHEMISTRY
                                    Hours
                                    UreaN
                                    Creat
                                     Na
   [4][**2110-9-9**] 01:33PM
                                   RANDOM
                                     312
                                     132
                                     32
   MICRO:
   Bld cx pending x2
   MRSA screen
   Cath tip cx pending
   IMAGING:
   CXR today
   Assessment and Plan
   ASSESSMENT AND PLAN
   This is an 80 year old man, in fairly good general health, who presents
   with acute illness and labs and imaging consistent with stones in the
   common bile duct leading to cholangitis.
   .
   RESPIRATORY DISTRESS
   Long expiratory phase suggestive of airway inflammation though no
   wheezing heard on exam and air movement remains intact.  This is most
   likely due to pleural fluid.  Other possible causes  include upper
   airway constriction, laryngeal spasm, although any upper airway
   restriction doesn
t seem to be the case.  ABG showed an AG and NAG
   metabolic acidosis with a respiratory acidosis.  AG acidosis most
   likely due to lactic acidosis in the setting of sepsis.  NAG likely due
   to NS IVF. His respiratory acidosis is concerning due to his inability
   to fully compensate for his metabolic acidosis.  In spite of
   noninvasive interventions, his repeat ABGs have not shown much change.
   - anesthesia c/s with plan to intubate
   - repeat abgs
   - f/u as outpt for potential OSA
   .
   HYPOTENSION
   Consistent with sepsis. Requiring decreasing amount of levophed.
   Continue aggressive IVF boluses, hope to dial down levophed.
   - consider a-line placement
   - MAP>65
   - replace cvl
   .
   CHOLANGITIS
   Currently requiring levophed; recent call from [**Hospital3 474**] yields
   news of confirmed GNRs on blood cx consistent with clinical history
   suggesting bacteremia. While writing this note, went to and returned
   from ERCP and had a stent with reportedly copious drainage.
   - post ERCP labs 2 hrs post procedure -- amylase/lipase to eval for
   pancreatitis, liver labs as post-procedure baseline to eval for ongoing
   improvement/failure to improve over next day
   - dilaudid for pain
   - zosyn q6h, renal dosing at 2.25 g IV q6h, follow Cr
   - f/u with OSH cx which grew [**3-22**] GNRs
   - once clearly stable, transfer West to surgery, Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] to be
   attending
   - add on vanc + cipro for broader coverage
   .
   ACUTE RENAL FAILURE
   C/w sepsis-induced pre-renal failure. Follow lytes in setting of BP
   support and aggressive hydration.
   - UA and urine lytes if Cr not improving
   - check previous outside records for baseline Cr values
   .
   ABDOMINAL PAIN
   Consistent with cholangitis. Non-peritoneal exam before going to ERCP.
   Expect some post-procedure pain. Treat with dilaudid. Follow serial
   abdominal exams to eval for emerging peritoneal process. Lipase has
   significantly increased.  This is concerning for post-ERCP pancreatitis
   - get PM lipase level
   - serial abdominal exams
   - consider IVF maintenance fluids
   .
   HYPERTENSION
   Holding lisinopril in setting of bacteremia, pressor need, elevated
   creatinine, etc.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2110-9-8**] 07:42 PM
   Arterial Line - [**2110-9-9**] 09:16 AM
   Multi Lumen - [**2110-9-9**] 08:00 PM
   Prophylaxis:
   DVT: Pneumoboots, SC heparin
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full (discussed with patient)
   Disposition: Maintain ICU status
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_24%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_25%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_26%22);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_29%22);

2110-09-10 11:29:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sepsis
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - START [**2110-9-9**] 09:16 AM
 INVASIVE VENTILATION - START [**2110-9-9**] 09:50 AM
 MULTI LUMEN - START [**2110-9-9**] 08:00 PM
 MULTI LUMEN - STOP [**2110-9-9**] 10:45 PM
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Valium (Oral) (Diazepam)
   agitation;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2110-9-9**] 12:00 PM
   Vancomycin - [**2110-9-10**] 07:24 AM
   Piperacillin/Tazobactam (Zosyn) - [**2110-9-10**] 10:10 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2110-9-9**] 11:09 AM
   Fentanyl - [**2110-9-9**] 11:09 AM
   Pantoprazole (Protonix) - [**2110-9-9**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2110-9-10**] 07:28 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-9-10**] 11:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.8
   HR: 64 (60 - 82) bpm
   BP: 115/56(76) {96/45(61) - 129/77(96)} mmHg
   RR: 18 (14 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95.6 kg (admission): 96 kg
   CVP: 10 (7 - 12)mmHg
   Mixed Venous O2% Sat: 93 - 99
   Total In:
                                                                  3,256 mL
                                                                  2,124 mL
   PO:
   TF:
   IVF:
                                                                  3,256 mL
                                                                  2,124 mL
   Blood products:
   Total out:
                                                                    579 mL
                                                                    869 mL
   Urine:
                                                                    579 mL
                                                                    865 mL
   NG:
                                                                      4 mL
   Stool:
   Drains:
   Balance:
                                                                  2,677 mL
                                                                  1,255 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 23 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.29/32/64/12/-9
   Ve: 11.2 L/min
   PaO2 / FiO2: 160
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: No(t) Wheezes : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.2 g/dL
   81 K/uL
   123 mg/dL
   2.9 mg/dL
   12 mEq/L
   4.3 mEq/L
   53 mg/dL
   112 mEq/L
   136 mEq/L
   34.4 %
   38.0 K/uL
        [image002.jpg]
                             [**2110-9-9**]  09:10 AM
                             [**2110-9-9**]  11:41 AM
                             [**2110-9-9**]  01:33 PM
                             [**2110-9-9**]  04:43 PM
                             [**2110-9-9**]  05:06 PM
                             [**2110-9-9**]  08:16 PM
                             [**2110-9-9**]  08:35 PM
                             [**2110-9-10**]  02:29 AM
                             [**2110-9-10**]  05:52 AM
                             [**2110-9-10**]  06:36 AM
   WBC
   39.8
   38.0
   Hct
   35.9
   34.4
   Plt
   72
   81
   Cr
   2.7
   2.7
   2.8
   2.9
   TCO2
   13
   16
   15
   15
   16
   16
   Glucose
   192
   161
   134
   123
   Other labs: PT / PTT / INR:14.1/29.2/1.2, ALT / AST:91/38, Alk Phos / T
   Bili:146/5.9, Amylase / Lipase:267/220, Lactic Acid:1.6 mmol/L,
   Albumin:2.4 g/dL, LDH:225 IU/L, Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.6
   mg/dL
   Imaging: CXR-Left sided subclavian catheter in good position.  he has
   relatively minor contribution from alveolar infiltrates.  he has
   suggestion of left sided deep sulcus sign but still remains with
   opacification.  Will need to confirm final [**Location (un) 103**] today for evaluation
   of PTX
   Assessment and Plan
   80 yo male with admission with sepsis with cholangitis as source and
   subsequent respiratory failure with sever metabolic acidosis and
   subsequent respiratory acidosis leading to intubation.
   1)Sepsis-
   -Vanco/Cipro/Zosyn
   -levophed to wean as possible
   -Will keep CVP at 10 and have very reasonable ScVO2 support has been
   adequate at this time.
   -LR for bolus as needed
   2)Respiratory Failure-
   -Very well tolerated A/C support with a relatively small contribution
   from hypoxemia driving need for ventilatory support.
   _Versed decreased to 3 this morning/Fentanyl
   -Continue with A/C support
   3)Acidosis-He retains a significant metabolic acidosis which this
   morning is dominated by non-gap acidosis in the setting of AG=12 and
   albumin=2.9
   -Will use LR today for fluild
   -Will consider HCO3- for persistent values <16
   -Will check urine anion gap to evaluate contribution of renal failure
   to the current picture
   4)Renal Failure-
   -Will maintain adquate perfusion
   -Do hope to see creatinine decrease
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 CHOLANGITIS
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ACIDOSIS, METABOLIC
 DYSPNEA (SHORTNESS OF BREATH)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2110-9-8**] 07:42 PM
   Arterial Line - [**2110-9-9**] 09:16 AM
   Multi Lumen - [**2110-9-9**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Family updated in full during rounds
   Code status: Full code
   Disposition :ICU
   Total time spent: 48 minutes

2110-09-11 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - ordered urine lytes to calc UAG
   - ETT was pulled back 2-3 cm
   - 1L LR bolus x 2 during the day, with good UOP
   - call radiology in AM about AM CXR that had the "deep sulcus sign"
   - OSH cx grew pansensitive E.Coli, will wait for our cx then make
   changes to abx
   - PM lytes: Cr stable at 2.8, bicarb incr to 14
   - weaning pressors all day
   - check ABG for TV 550 in AM....
   Allergies:
   Valium (Oral) (Diazepam)
   agitation;
   Last dose of Antibiotics:
   Vancomycin - [**2110-9-10**] 07:24 AM
   Ciprofloxacin - [**2110-9-10**] 11:51 AM
   Piperacillin/Tazobactam (Zosyn) - [**2110-9-11**] 04:07 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2110-9-10**] 08:01 PM
   Heparin Sodium (Prophylaxis) - [**2110-9-10**] 08:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-9-11**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 64 (60 - 99) bpm
   BP: 114/61(79) {94/47(61) - 133/69(87)} mmHg
   RR: 18 (18 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95.6 kg (admission): 96 kg
    CVP: 7 (7 - 15)mmHg
   Total In:
                                                                  4,899 mL
                                                                  1,044 mL
   PO:
   TF:
   IVF:
                                                                  4,899 mL
                                                                  1,044 mL
   Blood products:
   Total out:
                                                                  3,119 mL
                                                                  1,455 mL
   Urine:
                                                                  3,115 mL
                                                                  1,455 mL
   NG:
                                                                      4 mL
   Stool:
   Drains:
   Balance:
                                                                  1,780 mL
                                                                   -411 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 600) mL
   Vt (Spontaneous): 102 (102 - 102) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 41
   PIP: 21 cmH2O
   Plateau: 19 cmH2O
   SpO2: 98%
   ABG: 7.38/32/159/16/-4
                                     pH
                                    7.38
                                    pCO2
                                     32
                                     pO2
                                     159
                                    HCO3
                                     20
   Ve: 10.3 L/min
   PaO2 / FiO2: 398
   Physical Examination
   General: Sedated and nonresponsive to commands
   HEENT: Slightly icteric sclera, dry mucus membranes; no lesions
   Neck: supple, JVP not elevated
   Lungs: Clear to auscultation bilaterally anteriorly
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: + bowel sounds; no response to palpation; distended but not
   taut; no caput or other sequelae of chronic liver disease
   GU: foley in place
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   71 K/uL
   11.3 g/dL
   118 mg/dL
   2.9 mg/dL
   16 mEq/L
   3.8 mEq/L
   50 mg/dL
   111 mEq/L
   139 mEq/L
   33.3 %
   17.4 K/uL
        [image002.jpg]
                             [**2110-9-9**]  08:16 PM
                             [**2110-9-9**]  08:35 PM
                             [**2110-9-10**]  02:29 AM
                             [**2110-9-10**]  05:52 AM
                             [**2110-9-10**]  06:36 AM
                             [**2110-9-10**]  03:02 PM
                             [**2110-9-10**]  03:38 PM
                             [**2110-9-10**]  10:12 PM
                             [**2110-9-11**]  03:37 AM
                             [**2110-9-11**]  04:06 AM
   WBC
   38.0
   17.4
   Hct
   34.4
   33.3
   Plt
   81
   71
   Cr
   2.8
   2.9
   2.8
   2.9
   TCO2
   15
   16
   16
   16
   18
   20
   Glucose
   134
   123
   145
   118
   Other labs:
   PT / PTT / INR:13.7/27.1/1.2, ALT / AST:65/28,
   Alk Phos / T Bili:133/4.4, Amylase / Lipase:267/220, Lactic Acid:1.1
   mmol/L, Albumin:2.3 g/dL, LDH:188 IU/L,
   Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Vanc trough: 14.9
   Na:97
   K:17
   Cl:101
   Urine AG positive.
   Micro:
   Blood cx from [**9-8**]: NGTD
   Urine cx from [**9-9**]: neg
   MRSA screen: pending
   Imaging:
   CXR (my read): Worsening bibasilar opacities, probably due to
   atelectasis, as well as worsening bilateral pleural effusion.
   Assessment and Plan
   ASSESSMENT AND PLAN
   This is an 80 year old man, in fairly good general health, who presents
   with acute illness and labs and imaging consistent with stones in the
   common bile duct leading to cholangitis.
   .
   # RESPIRATORY DISTRESS: s/p intubation. ABG on admission showed an AG
   and NAG metabolic acidosis with a respiratory acidosis.  Barriers to
   extubation include continued metabolic acidosis, altered mental status
   and bilateral pleural effusion.
   - change from AC to PS [**11-25**], check ABG
   - will ultimately need to diurese pt before extubation when his BP is
   more stable
   .
   # METABOLIC ACIDOSIS: Pt continues to have anion gap and non-anion gap
   metabolic acidosis.  AG acidosis most likely due to lactic acidosis in
   the setting of sepsis and renal failure.  However, his NAG acidosis
   seems to be the predominant cause for his overall acidosis.  This is
   likely due to NS IVF or acute renal failure.  A positive UAG suggests
   impaired renal acidification (ie renal tubular acidosis I or IV, or
   renal failure). Given that patient had no h/o RTA, this is most likely
   renal failure-caused acidosis.
   - continue to monitor with ABGs
   - use LR for IVF boluses
   - no bicarb is indicated at this time
   - continue to monitor renal function
   .
   # ACUTE RENAL FAILURE: C/w sepsis-induced pre-renal failure [**1-20**]  ATN.
   Urine lytes show a FeNa of 0.5, pointing to a prerenal cause.  Pt
   appears to be in a diuresis phase.
   - Follow lytes in setting of BP support and aggressive hydration.
   - monitor Cr levels
   - check previous outside records for baseline Cr values
   .
   # HYPOTENSION: Consistent with sepsis. Requiring decreasing amount of
   levophed. Continue aggressive IVF boluses, hope to dial down levophed.
   On levophed 0.05 now.
   - MAP>65 with LR IVF as needed
   - continue vanc, cipro and zosyn for cholangitis, and refine abx when
   culture come back
   .
   # CHOLANGITIS:
   Currently requiring levophed; recent call from [**Hospital3 474**] yields
   news of confirmed GNRs on blood cx consistent with clinical history
   suggesting bacteremia.  WBC is increasing although he remains afebile.
   - dilaudid for pain
   - continue zosyn q6h, renal dosing at 2.25 g IV q6h, follow Cr, vanc,
   and cipro
   - f/u with OSH cx  speciation which grew [**3-22**] GNRs
   - once clearly stable, transfer West to surgery, Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] to be
   attending
   - f/u on our cx
   .
   # ABDOMINAL PAIN
   Consistent with cholangitis. Non-peritoneal exam before going to ERCP.
   Expect some post-procedure pain. Treat with dilaudid. Follow serial
   abdominal exams to eval for emerging peritoneal process. Lipase has
   significantly increased.  This is concerning for post-ERCP pancreatitis
   - post ERCP labs have shown amylase/lipase less than [**Telephone/Fax (1) 8414**], which
   carries a very low risk for post-ERCP pancreatitis
   - follow amylase/lipase levels
   - serial abdominal exams after weaning off sedation
   .
   # HYPERTENSION
   Holding lisinopril in setting of bacteremia, pressor need, elevated
   creatinine, etc.
   ICU Care
   Nutrition: NPO
   Glycemic Control:  not on ISS
   Lines:
   20 Gauge - [**2110-9-8**] 07:42 PM
   Arterial Line - [**2110-9-9**] 09:16 AM
   Multi Lumen - [**2110-9-9**] 08:00 PM
   Prophylaxis:
   DVT: Pneumoboots, SC heparin
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full (discussed with patient)
   Disposition: Maintain ICU status

2110-09-11 12:04:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   OSH culture--pan sensitive E.Coli
   Allergies:
   Valium (Oral) (Diazepam)
   agitation;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2110-9-10**] 11:51 AM
   Vancomycin - [**2110-9-11**] 08:16 AM
   Piperacillin/Tazobactam (Zosyn) - [**2110-9-11**] 09:28 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2110-9-10**] 08:01 PM
   Heparin Sodium (Prophylaxis) - [**2110-9-11**] 07:16 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-9-11**] 11:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.1
C (98.7
   HR: 66 (61 - 99) bpm
   BP: 114/57(75) {94/47(62) - 133/69(88)} mmHg
   RR: 20 (18 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.1 kg (admission): 96 kg
   CVP: 9 (7 - 15)mmHg
   Total In:
                                                                  5,234 mL
                                                                  2,085 mL
   PO:
   TF:
   IVF:
                                                                  5,234 mL
                                                                  2,085 mL
   Blood products:
   Total out:
                                                                  3,119 mL
                                                                  2,295 mL
   Urine:
                                                                  3,115 mL
                                                                  2,295 mL
   NG:
                                                                      4 mL
   Stool:
   Drains:
   Balance:
                                                                  2,115 mL
                                                                   -210 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 600) mL
   Vt (Spontaneous): 102 (102 - 102) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 41
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: 7.38/32/159/16/-4
   Ve: 10.5 L/min
   PaO2 / FiO2: 398
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.3 g/dL
   71 K/uL
   118 mg/dL
   2.9 mg/dL
   16 mEq/L
   3.8 mEq/L
   50 mg/dL
   111 mEq/L
   139 mEq/L
   33.3 %
   17.4 K/uL
        [image002.jpg]
                             [**2110-9-9**]  08:16 PM
                             [**2110-9-9**]  08:35 PM
                             [**2110-9-10**]  02:29 AM
                             [**2110-9-10**]  05:52 AM
                             [**2110-9-10**]  06:36 AM
                             [**2110-9-10**]  03:02 PM
                             [**2110-9-10**]  03:38 PM
                             [**2110-9-10**]  10:12 PM
                             [**2110-9-11**]  03:37 AM
                             [**2110-9-11**]  04:06 AM
   WBC
   38.0
   17.4
   Hct
   34.4
   33.3
   Plt
   81
   71
   Cr
   2.8
   2.9
   2.8
   2.9
   TCO2
   15
   16
   16
   16
   18
   20
   Glucose
   134
   123
   145
   118
   Other labs: PT / PTT / INR:13.7/27.1/1.2, ALT / AST:65/28, Alk Phos / T
   Bili:133/4.4, Amylase / Lipase:267/220, Lactic Acid:1.1 mmol/L,
   Albumin:2.3 g/dL, LDH:188 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.8
   mg/dL
   Fluid analysis / Other labs: -Urine anion gap-positive at 13
   Imaging: CXR-ETT and CVL in good position.  SMall/Moderate effusions
   suggested with possible LLL opacity concerning for collapse.
   Assessment and Plan
   80 yo male with cholangitis and sepsis with subsequent respiratory
   failure in the setting of severe metabolic acidosis.  He has had a
   plateau in creatinine level but retains signficant pressor requirement
   and in that setting has had a decrease in WBC count.
   1) SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)-clearly biliary source as
   most likely and have some evidence of improvement with improvement in
   WBC and paucity of fever.  As far as source we do have a pan sensitive
   E. Coli in place.
   -Continue with Vanco/Cipro
   -Levophed at low dose continues and will look to wean
   -patient is apparently volume replete
   2) RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   -Versed and Fentanyl off since yesterday
   -Will move to PSV at this time
   -Barriers to extubation are
    mental status
versed/fentanyl held
   Acidemia
improved as renal function improves
   3)Acidemia
Metabolic Acidosis-
   -Does appear to be related to renal failure and saline
   -Will continue with LR for any fluild
   4)Acute Renal Failure
Likely ATN
   -Do see increase in urine flow
   -Do hope to see trend to improved creatinine across time as we move
   through the post ATN recovery phase
but this will have to be seen.
 CHOLANGITIS
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ACIDOSIS, METABOLIC
 DYSPNEA (SHORTNESS OF BREATH)
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:
   Lines:
   20 Gauge - [**2110-9-8**] 07:42 PM
   Arterial Line - [**2110-9-9**] 09:16 AM
   Multi Lumen - [**2110-9-9**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 38 minutes

2110-09-12 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**9-11**]:
   - ERCP: can get tube feeds
   - CXR: FINDINGS: In comparison with the study of [**9-10**], some increased
   haziness is seen involving the lower portion of the lungs bilaterally
   with obscuration of the hemidiaphragms. This is consistent with
   layering pleural effusions and adjacent compressive atelectasis.
   Monitoring and support devices remain in place.
   - weaned pressors: now on levophed 0.1
   - urine lytes/sediment -> ATN likely from hypotension, now in diuretic
   phase
   - given 2L NS boluses
   - changed to PS [**11-25**] -> f/u ABG: 7.41, 28, 131.  PS decreased to [**9-22**].
   - no sedation but still poor mental status
   - GNR at OSH, wait for cultures, continue current abx
   - platelets low, fu PF4 antibody
   Allergies:
   Valium (Oral) (Diazepam)
   agitation;
   Last dose of Antibiotics:
   Vancomycin - [**2110-9-11**] 08:16 AM
   Ciprofloxacin - [**2110-9-11**] 12:21 PM
   Piperacillin/Tazobactam (Zosyn) - [**2110-9-12**] 04:20 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2110-9-11**] 08:19 PM
   Heparin Sodium (Prophylaxis) - [**2110-9-11**] 08:19 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-9-12**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37
C (98.6
   HR: 57 (57 - 74) bpm
   BP: 103/47(66) {92/44(59) - 133/66(90)} mmHg
   RR: 16 (16 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 94.5 kg (admission): 96 kg
    CVP: 5 (5 - 15)mmHg
   Total In:
                                                                  3,992 mL
                                                                  2,492 mL
   PO:
   TF:
                                                                     66 mL
                                                                    143 mL
   IVF:
                                                                  3,826 mL
                                                                  2,249 mL
   Blood products:
   Total out:
                                                                  3,995 mL
                                                                  1,270 mL
   Urine:
                                                                  3,995 mL
                                                                  1,270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     -3 mL
                                                                  1,222 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 503 (476 - 576) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 67
   PIP: 11 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: 7.36/33/135//-5
   Ve: 10.4 L/min
   PaO2 / FiO2: 338
   Physical Examination
   General: Sedated and intubated. Open eyes to commands, but does not
   follow command to squeeze hands or wiggle toes
   HEENT: Slightly icteric sclera, dry mucus membranes; no lesions
   Neck: supple, JVP not elevated
   Lungs: Clear to auscultation bilaterally anteriorly
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: + bowel sounds; no response to palpation; distended but not
   taut; no caput or other sequelae of chronic liver disease
   GU: foley in place
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   68 K/uL
   10.3 g/dL
   118 mg/dL
   2.9 mg/dL
   16 mEq/L
   3.6 mEq/L
   50 mg/dL
   111 mEq/L
   139 mEq/L
   30.8 %
   8.7 K/uL
        [image002.jpg]
                             [**2110-9-10**]  03:02 PM
                             [**2110-9-10**]  03:38 PM
                             [**2110-9-10**]  10:12 PM
                             [**2110-9-11**]  03:37 AM
                             [**2110-9-11**]  04:06 AM
                             [**2110-9-11**]  01:18 PM
                             [**2110-9-11**]  04:06 PM
                             [**2110-9-11**]  08:59 PM
                             [**2110-9-12**]  05:43 AM
                             [**2110-9-12**]  06:01 AM
   WBC
   17.4
   8.7
   Hct
   33.3
   30.8
   Plt
   71
   68
   Cr
   2.8
   2.9
   TCO2
   16
   18
   20
   18
   19
   19
   19
   Glucose
   145
   118
   Other labs: PT / PTT / INR:13.7/27.1/1.2, ALT / AST:65/28, Alk Phos / T
   Bili:133/4.4, Amylase / Lipase:267/220, Lactic Acid:1.2 mmol/L,
   Albumin:2.3 g/dL, LDH:188 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.8
   mg/dL
   Micro:
   Cath tip pending
   Blood cx from [**9-8**]: NGTD
   Urine cx from [**9-9**]: neg
   MRSA screen: pending
   Imaging:
   CXR today
   Assessment and Plan
   ASSESSMENT AND PLAN
   This is an 80 year old man, in fairly good general health, who presents
   with acute illness and labs and imaging consistent with stones in the
   common bile duct leading to cholangitis.
   .
   # RESPIRATORY DISTRESS: s/p intubation. ABG on admission showed an AG
   and NAG metabolic acidosis with a respiratory acidosis.  Barriers to
   extubation include continued metabolic acidosis, altered mental status
   and bilateral pleural effusion. This morning, he also vomited with
   possibility for aspiration
   - maintain on current vent settings while monitoring for fevers,
   chills, bump in WBC
   - CXR tomorrow
   - if stable tomorrow, plan for SBT and eventual wean off vent.
   .
   # METABOLIC ACIDOSIS: Pt continues to have a non-anion gap metabolic
   acidosis.  AG acidosis seems to be resolved, most likely due to lactic
   acidosis in the setting of sepsis and renal failure.  His NAG acidosis
   seems to be the predominant cause for his overall acidosis.  This is
   likely due to NS IVF and acute renal failure.  A positive UAG suggests
   impaired renal acidification (ie renal tubular acidosis I or IV, or
   renal failure). Given that patient had no h/o RTA, this is most likely
   renal failure-caused acidosis.
   - continue to monitor with ABGs
   - use LR for IVF maintenance at 125cc/hr
   - no bicarb is indicated at this time
   - continue to monitor renal function
   .
   # ACUTE RENAL FAILURE: C/w sepsis-induced pre-renal failure [**1-20**]  ATN.
   Urine lytes show a FeNa of 0.5, pointing to a prerenal cause.  Pt
   appears to be in a diuresis phase.
   - Follow lytes in setting of BP support and aggressive hydration.
   - monitor Cr levels
   - check previous outside records for baseline Cr values
   .
   # Sepsis: Likely source is cholangitis. Weaned off of levaphed today
   - MAP>65 with LR IVF as needed
   - goal CVP>10, ScvO2 >70%
   - continue vanc, cipro and zosyn for cholangitis, and refine abx when
   culture come back
   - continue to hold home lisinopril given hypotension
   .
   # CHOLANGITIS:  [**Hospital3 474**] blood cx grew out pan-sensitive
   E.coli.
   - dilaudid for pain
   - continue vanc, cipro and zosyn for cholangitis, and refine abx when
   culture come back
   - f/u on our cx
   - once clearly stable, transfer West to surgery, Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] to be
   attending
   - post ERCP labs have shown amylase/lipase less than [**Telephone/Fax (1) 8414**], which
   carries a very low risk for post-ERCP pancreatitis
   - follow amylase/lipase levels
   - serial abdominal exams after weaning off sedation
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2110-9-11**] 05:24 PM 30 mL/hour (held in
   setting of vomiting)
   Glycemic Control:
   Lines:
   20 Gauge - [**2110-9-8**] 07:42 PM
   Arterial Line - [**2110-9-9**] 09:16 AM
   Multi Lumen - [**2110-9-9**] 08:00 PM
   Prophylaxis:
   DVT: Pneumoboots, SC heparin
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full (discussed with patient)
   Disposition: Maintain ICU status

2110-09-12 11:18:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   cholangitis
   acidosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient has had substantial decrease in WBC count
   -Patient has been able to move to PSV support and move to [**4-22**]
   -Patient has been able to maintain discontinuation of all pressor
   agents.
   -Tube feeds to restart per ERCP
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Valium (Oral) (Diazepam)
   agitation;
   Last dose of Antibiotics:
   Vancomycin - [**2110-9-11**] 08:16 AM
   Ciprofloxacin - [**2110-9-11**] 12:21 PM
   Piperacillin/Tazobactam (Zosyn) - [**2110-9-12**] 04:20 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2110-9-11**] 08:19 PM
   Heparin Sodium (Prophylaxis) - [**2110-9-12**] 09:03 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2110-9-12**] 11:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.5
   HR: 75 (57 - 84) bpm
   BP: 100/49(64) {92/44(59) - 159/79(110)} mmHg
   RR: 27 (16 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.5 kg (admission): 96 kg
   CVP: 9 (5 - 16)mmHg
   Total In:
                                                                  3,993 mL
                                                                  2,754 mL
   PO:
   TF:
                                                                     66 mL
                                                                    266 mL
   IVF:
                                                                  3,827 mL
                                                                  2,338 mL
   Blood products:
   Total out:
                                                                  3,995 mL
                                                                  1,420 mL
   Urine:
                                                                  3,995 mL
                                                                  1,420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     -2 mL
                                                                  1,334 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 472 (472 - 576) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 67
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.36/33/135/17/-5
   Ve: 9.4 L/min
   PaO2 / FiO2: 338
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.3 g/dL
   68 K/uL
   127 mg/dL
   2.5 mg/dL
   17 mEq/L
   3.8 mEq/L
   49 mg/dL
   114 mEq/L
   140 mEq/L
   30.8 %
   8.7 K/uL
        [image002.jpg]
                             [**2110-9-10**]  03:02 PM
                             [**2110-9-10**]  03:38 PM
                             [**2110-9-10**]  10:12 PM
                             [**2110-9-11**]  03:37 AM
                             [**2110-9-11**]  04:06 AM
                             [**2110-9-11**]  01:18 PM
                             [**2110-9-11**]  04:06 PM
                             [**2110-9-11**]  08:59 PM
                             [**2110-9-12**]  05:43 AM
                             [**2110-9-12**]  06:01 AM
   WBC
   17.4
   8.7
   Hct
   33.3
   30.8
   Plt
   71
   68
   Cr
   2.8
   2.9
   2.5
   TCO2
   16
   18
   20
   18
   19
   19
   19
   Glucose
   145
   118
   127
   Other labs: PT / PTT / INR:13.3/27.4/1.1, ALT / AST:52/29, Alk Phos / T
   Bili:115/3.2, Amylase / Lipase:267/57, Lactic Acid:1.2 mmol/L,
   Albumin:2.0 g/dL, LDH:150 IU/L, Ca++:7.2 mg/dL, Mg++:1.8 mg/dL, PO4:2.9
   mg/dL
   Imaging: CXR-ETT and CVL in good position, no change in infiltrates.
   Assessment and Plan
   80 yo male with presentation with cholangitis and with ERCP
   decompression complicated by sepsis with subsequent respiratory failure
   in the setting of severe metabolic acidosis.  He has been able to wean
   the extent of ventilator support to minimal levels. He has had
   substantial increase in urine flow and decline in creatinie levels.  He
   maintains mild non-gap metabolic acidosis with HCO3-17.  The patient
   had episoded of emesis and complicated by tachpnea and concern for
   aspiration is significant
with suctioning secretions have been able to
   be cleared
   1)SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   -Cipro/Zosyn
   -Pressors weaned to off
   -Biliary source remains dominant
   2)RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])-
   -Will move to wean sedation further to allow
   -Will wait 24 hours following event
   -Maintain PSV support at current settings at 12/5 and re-evaluate with
   ABG
   -Continue with antibiotics
   3)CHOLANGITIS-
   -Improving enzymes with expected bili lag
   4) ACIDOSIS, METABOLIC-
   -Likely secondary to renal failure and normal saline
   -Do see improving urine flow and creatinine and hope to see Acidosis
   resolve further
   5)THROMBOCYTOPENIA-Patient has signficiant decrease-
   -Will continue to monitor
   -HIT Ab sent and considered possible but low pre-test probability
   largely due to unknown data so will not Rx with argatroban in the
   setting of recent procedure
   ICU Care
   Nutrition:
   Tube Feeds to hold today
   Glycemic Control:
   Lines:
   Arterial Line - [**2110-9-9**] 09:16 AM
   Multi Lumen - [**2110-9-9**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2110-09-13 07:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - on PS 5/5, no SBT bc of altered mental status
   - head CT ordered for altered mental status, No acute abnormalities are
   seen. No hemorrhage seen.
   - vomitted TF, no sign of aspiration but will need to watch for fever,
   no need for repeat CXR today
   - Tube feed stopped, will restart later
   - still had nausea, KUB was ordered---> no obstruction
   - vanc and zosyn stopped, kept him on cipro as OSH cx grew
   pan-sensitive E.Coli
   - HIT antibody neg
   - family was updated
   - was agitated overnight, was given zyprexa with no effect, then was
   given bolus fentanyl which helped
   - this am put back on propofol
   Allergies:
   Valium (Oral) (Diazepam)
   agitation;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2110-9-12**] 04:20 AM
   Vancomycin - [**2110-9-12**] 12:05 PM
   Ciprofloxacin - [**2110-9-12**] 12:11 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2110-9-12**] 08:10 PM
   Heparin Sodium (Prophylaxis) - [**2110-9-12**] 08:10 PM
   Fentanyl - [**2110-9-12**] 11:58 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-9-13**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.6
   HR: 62 (60 - 84) bpm
   BP: 144/70(95) {86/46(62) - 167/98(115)} mmHg
   RR: 20 (17 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.5 kg (admission): 96 kg
   Height: 69 Inch
    CVP: 8 (4 - 16)mmHg
   Total In:
                                                                  5,625 mL
                                                                    128 mL
   PO:
   TF:
                                                                    266 mL
   IVF:
                                                                  5,209 mL
                                                                    128 mL
   Blood products:
   Total out:
                                                                  4,380 mL
                                                                  1,625 mL
   Urine:
                                                                  4,230 mL
                                                                  1,625 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  1,245 mL
                                                                 -1,497 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 415 (301 - 480) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 66
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.38/35/147/20/-3
   Ve: 9 L/min
   PaO2 / FiO2: 367
   Physical Examination
   General: Sedated and intubated. Open eyes to commands, but does not
   follow command to squeeze hands or wiggle toes
   HEENT: Slightly icteric sclera, dry mucus membranes. ETT and OGT in
   place
   Neck: supple, JVP not elevated
   Lungs: Clear to auscultation bilaterally anteriorly
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: + bowel sounds; no response to palpation; distended
   GU: foley in place
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   110 K/uL
   10.1 g/dL
   91 mg/dL
   2.2 mg/dL
   20 mEq/L
   3.8 mEq/L
   45 mg/dL
   114 mEq/L
   142 mEq/L
   29.5 %
   9.3 K/uL
        [image002.jpg]
                             [**2110-9-11**]  03:37 AM
                             [**2110-9-11**]  04:06 AM
                             [**2110-9-11**]  01:18 PM
                             [**2110-9-11**]  04:06 PM
                             [**2110-9-11**]  08:59 PM
                             [**2110-9-12**]  05:43 AM
                             [**2110-9-12**]  06:01 AM
                             [**2110-9-12**]  11:13 AM
                             [**2110-9-13**]  04:47 AM
                             [**2110-9-13**]  05:14 AM
   WBC
   17.4
   8.7
   9.3
   Hct
   33.3
   30.8
   29.5
   Plt
   71
   68
   110
   Cr
   2.9
   2.5
   2.2
   TCO2
   20
   18
   19
   19
   19
   19
   22
   Glucose
   118
   127
   91
   Other labs:
   PT / PTT / INR:13.0/25.2/1.1,
   ALT / AST:48/27, Alk Phos / T Bili:110/2.7, , LDH:130 IU/L, (all down
   compared to yesterday)
   Lactic Acid:0.6 mmol/L, Albumin:2.3 g/dL
   Ca++:7.8 mg/dL, Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Micro:
   Cath tip cx: neg
   Blood cx from [**9-8**]: NGTD
   Urine cx from [**9-9**]: neg
   MRSA screen: neg
   Imaging:
   CT head ([**9-12**]): wet read: No acute abnormalities are seen. No
   hemorrhage seen.
   KUB ([**9-12**]):  wet read: no obstruction
   CXR ([**9-13**]): bilateral pleural effusion, R>L, slightly worse than
   yesterday
   Assessment and Plan
   This is an 80 year old man previously in fairly good general health,
   who presented with cholangitis associated with stones in the common
   bile duct, and respiratory failure in the setting of severe AG and
   non-AG metabolic acidosis.
   .
   # RESPIRATORY DISTRESS: s/p intubation. ABG on admission showed an AG
   and NAG metabolic acidosis with a respiratory acidosis.  Barriers to
   extubation include continued metabolic acidosis and altered mental
   status. Yesterday morning he vomited, today
s CXR didn
t show evidence
   of aspiration pneumonia. No significant increase in WBC either.  His
   CXR significantly improved today compared to yesterday.
   - d/c propofol
   - monitor mental status after propofol is d/c
   - attempt SBT and extubation today
   - continue regular suctioning
   .
   # METABOLIC ACIDOSIS: Pt continues to have a non-anion gap metabolic
   acidosis.  AG acidosis seems to be resolved. His NAG acidosis seems to
   be the predominant cause for his overall acidosis.  This is likely due
   to NS IVF and acute renal failure.  A positive UAG suggests impaired
   renal acidification (ie renal tubular acidosis I or IV, or renal
   failure). Given that patient had no h/o RTA, this is most likely renal
   failure-caused acidosis.
   - continue to monitor with lytes and ABGs
   - use LR for IVF maintenance at 125cc/hr
   - no bicarb is indicated at this time
   - continue to monitor renal function
   - continue to hold home lisinopril given renal failure
   .
   # SEPSIS: Likely source is cholangitis. Weaned off of levaphed
   yesterday.  OSH blood culture grew pan-sensitive E.Coli.
   - maintain goal MAP>65 with LR IVF as needed
   - goal CVP>10, ScvO2 >70%, UOP>30cc/hr
   - continue cipro for E. coli bacteremia and cholangitis. Vanc and
   cefepime d/c
d on [**9-12**] as the OSH culture grew out pan-sensitive E.
   Coli
   - continue to hold home lisinopril given hypotension
   .
   # ACUTE RENAL FAILURE: Renal function improving, back to 2.2 which is
   the number he came in with. Unclear what his baseline is. C/w
   sepsis-induced pre-renal failure [**1-20**]  ATN. Urine lytes show a FeNa of
   0.5, pointing to a prerenal cause.  Pt appears to be in a diuresis
   phase currently.
   - monitor Cr levels
   .
   # CHOLANGITIS:  s/p ERCP.
   - continue cipro for E. coli bacteremia and cholangitis. Vanc and
   cefepime d/c
d on [**9-12**] as the OSH culture grew out pan-sensitive E.
   Coli
   - post ERCP labs have shown amylase/lipase less than [**Telephone/Fax (1) 8414**], which
   carries a very low risk for post-ERCP pancreatitis
   - serial abdominal exams after weaning off sedation
   .
   # THROMBOCYTOPENIA: resolving. HIT antibody neg.
   - continue to monitor
   ICU Care
   Nutrition: TF held, will continue to hold today, consider restarting
   tomorrow
   Glycemic Control:  ISS if needed
   Lines:
   Arterial Line - [**2110-9-9**] 09:16 AM
   Multi Lumen - [**2110-9-9**] 08:00 PM
   Prophylaxis:
   DVT: Pneumoboots, SC heparin
   Stress ulcer: pantoprazole
   VAP:  bundle
   Comments:
   Communication:  Comments: wife and two daughters
   [**Name (NI) 129**] status: Full (discussed with patient)
   Disposition: ICU care

2110-09-13 09:05:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80 yo male admitted [**9-2**] with ascending cholangitis with E.coli
   sepsis/multiorgan failure resulting in respiratory failure/acidosis
   24 Hour Events:
   SBT not attempted due to poor MS
   [**Name13 (STitle) **] CT without acute CVA/hemorrhage
   Vomited TF- no obstruction by KUB
   Abx pared down to cipro with cultures showing pan [**Last Name (un) 206**]. Ecoli
   Agitated off sedation overnight-  no response to zyprexa, on
   fenatnyl/propofol overnight
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Valium (Oral) (Diazepam)
   agitation;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2110-9-12**] 04:20 AM
   Vancomycin - [**2110-9-12**] 12:05 PM
   Ciprofloxacin - [**2110-9-12**] 12:11 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2110-9-12**] 08:10 PM
   Heparin Sodium (Prophylaxis) - [**2110-9-12**] 08:10 PM
   Fentanyl - [**2110-9-12**] 11:58 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-9-13**] 08:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.2
   HR: 62 (60 - 84) bpm
   BP: 144/70(95) {86/46(62) - 167/98(115)} mmHg
   RR: 20 (17 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.5 kg (admission): 96 kg
   Height: 69 Inch
   CVP: 8 (4 - 16)mmHg
   Total In:
                                                                  5,625 mL
                                                                    206 mL
   PO:
   TF:
                                                                    266 mL
   IVF:
                                                                  5,209 mL
                                                                    206 mL
   Blood products:
   Total out:
                                                                  4,380 mL
                                                                  1,975 mL
   Urine:
                                                                  4,230 mL
                                                                  1,975 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  1,245 mL
                                                                 -1,769 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 473 (301 - 480) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 66
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.38/35/147/20/-3
   Ve: 7.8 L/min
   PaO2 / FiO2: 367
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.1 g/dL
   110 K/uL
   91 mg/dL
   2.2 mg/dL
   20 mEq/L
   3.8 mEq/L
   45 mg/dL
   114 mEq/L
   142 mEq/L
   29.5 %
   9.3 K/uL
        [image002.jpg]
                             [**2110-9-11**]  03:37 AM
                             [**2110-9-11**]  04:06 AM
                             [**2110-9-11**]  01:18 PM
                             [**2110-9-11**]  04:06 PM
                             [**2110-9-11**]  08:59 PM
                             [**2110-9-12**]  05:43 AM
                             [**2110-9-12**]  06:01 AM
                             [**2110-9-12**]  11:13 AM
                             [**2110-9-13**]  04:47 AM
                             [**2110-9-13**]  05:14 AM
   WBC
   17.4
   8.7
   9.3
   Hct
   33.3
   30.8
   29.5
   Plt
   71
   68
   110
   Cr
   2.9
   2.5
   2.2
   TCO2
   20
   18
   19
   19
   19
   19
   22
   Glucose
   118
   127
   91
   Other labs: PT / PTT / INR:13.0/25.2/1.1, ALT / AST:48/27, Alk Phos / T
   Bili:110/2.7, Amylase / Lipase:267/57, Lactic Acid:0.6 mmol/L,
   Albumin:2.3 g/dL, LDH:130 IU/L, Ca++:7.8 mg/dL, Mg++:1.7 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 CHOLANGITIS
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ACIDOSIS, METABOLIC
 DYSPNEA (SHORTNESS OF BREATH)
   80 yo male with ascending cholangitis/Ecoli sepsis s/p stent  and
   multiorgan failure initially with shock, respiratory failure, renal
   failure- responding to antibiotics with recovery of organ systems.
   Major residual issues include ongoing acute respiratory failure.
   1. Acute respiratory failure-
   On minimal vent settings with reasonable Tv
s and RR
   Aspirated TF
s yesterday- however, no new infiltrate this morning and
   is tolerating minimal ventilatory support
   Given high discomfort with ETT resulting in  increased  sedation , slow
   sedation wean may be ineffective
   Off propofol now- move to quick SBT and extubation
   2. Ecoli sepsis/ascending cholangitis
   Appears appropriately treated with no fevers/leukocytosis to suggest
   recurrent infxn.
   On cipro to complete a [**10-1**] day course
   LFT
s slowly improving
   3. ARF: improving with Cr of 2.2 today, unclear baseline
   4. Thrombocytopenia: improved counts today, continue to follow
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2110-9-9**] 09:16 AM
   Multi Lumen - [**2110-9-9**] 08:00 PM
   Prophylaxis:
   DVT: hep SQ, boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2110-09-14 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - off propofol
   - extubated today
   - S&S c/s ordered
   - dc'd A line
   Allergies:
   Valium (Oral) (Diazepam)
   agitation;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2110-9-12**] 04:20 AM
   Vancomycin - [**2110-9-12**] 12:05 PM
   Ciprofloxacin - [**2110-9-13**] 12:03 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2110-9-13**] 08:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-9-14**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98
   HR: 64 (59 - 79) bpm
   BP: 125/53(72) {103/50(64) - 139/66(82)} mmHg
   RR: 18 (17 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.5 kg (admission): 96 kg
   Height: 69 Inch
    CVP: 10 (-2 - 13)mmHg
   Total In:
                                                                    660 mL
                                                                    193 mL
   PO:
                                                                     60 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    600 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  4,180 mL
                                                                  1,060 mL
   Urine:
                                                                  4,180 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,520 mL
                                                                   -867 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 473 (473 - 473) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 0 cmH2O
   FiO2: 3%
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///22/
   Ve: 7.8 L/min
   Physical Examination
   General: Sedated and intubated. Open eyes to commands, but does not
   follow command to squeeze hands or wiggle toes
   HEENT: Slightly icteric sclera, dry mucus membranes. ETT and OGT in
   place
   Neck: supple, JVP not elevated
   Lungs: Clear to auscultation bilaterally anteriorly
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: + bowel sounds; no response to palpation; distended
   GU: foley in place
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   152 K/uL
   10.1 g/dL
   92 mg/dL
   2.0 mg/dL
   22 mEq/L
   3.5 mEq/L
   43 mg/dL
   111 mEq/L
   142 mEq/L
   29.6 %
   12.2 K/uL
        [image002.jpg]
                             [**2110-9-11**]  04:06 AM
                             [**2110-9-11**]  01:18 PM
                             [**2110-9-11**]  04:06 PM
                             [**2110-9-11**]  08:59 PM
                             [**2110-9-12**]  05:43 AM
                             [**2110-9-12**]  06:01 AM
                             [**2110-9-12**]  11:13 AM
                             [**2110-9-13**]  04:47 AM
                             [**2110-9-13**]  05:14 AM
                             [**2110-9-14**]  04:47 AM
   WBC
   8.7
   9.3
   12.2
   Hct
   30.8
   29.5
   29.6
   Plt
   68
   110
   152
   Cr
   2.5
   2.2
   2.0
   TCO2
   20
   18
   19
   19
   19
   19
   22
   Glucose
   127
   91
   92
   Other labs:
   PT / PTT / INR:13.0/25.0/1.1,
   ALT / AST:50/33, Alk Phos / T Bili:122/2.6, Amylase / Lipase:267/57,
   Lactic Acid:0.6 mmol/L, Albumin:2.5 g/dL, LDH:140 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Micro:
   Cath tip cx: neg
   Blood cx from [**9-8**]: NGTD
   Urine cx from [**9-9**]: neg
   MRSA screen: neg
   Imaging:
   CT head ([**9-12**]): wet read: No acute abnormalities are seen. No
   hemorrhage seen.
   KUB ([**9-12**]):  wet read: no obstruction
   CXR ([**9-13**]): bilateral pleural effusion, R>L, slightly worse than
   yesterday
   Assessment and Plan
   This is an 80 year old man previously in fairly good general health,
   who presented with cholangitis associated with stones in the common
   bile duct, and respiratory failure in the setting of severe AG and
   non-AG metabolic acidosis.
   .
   # RESPIRATORY DISTRESS: s/p intubation. ABG on admission showed an AG
   and NAG metabolic acidosis with a respiratory acidosis.  Barriers to
   extubation include continued metabolic acidosis and altered mental
   status. Yesterday morning he vomited, today
s CXR didn
t show evidence
   of aspiration pneumonia. No significant increase in WBC either.  His
   CXR significantly improved today compared to yesterday.
   - d/c propofol
   - monitor mental status after propofol is d/c
   - attempt SBT and extubation today
   - continue regular suctioning
   .
   # METABOLIC ACIDOSIS: Pt continues to have a non-anion gap metabolic
   acidosis.  AG acidosis seems to be resolved. His NAG acidosis seems to
   be the predominant cause for his overall acidosis.  This is likely due
   to NS IVF and acute renal failure.  A positive UAG suggests impaired
   renal acidification (ie renal tubular acidosis I or IV, or renal
   failure). Given that patient had no h/o RTA, this is most likely renal
   failure-caused acidosis.
   - continue to monitor with lytes and ABGs
   - use LR for IVF maintenance at 125cc/hr
   - no bicarb is indicated at this time
   - continue to monitor renal function
   - continue to hold home lisinopril given renal failure
   .
   # SEPSIS: Likely source is cholangitis. Weaned off of levaphed
   yesterday.  OSH blood culture grew pan-sensitive E.Coli.
   - maintain goal MAP>65 with LR IVF as needed
   - goal CVP>10, ScvO2 >70%, UOP>30cc/hr
   - continue cipro for E. coli bacteremia and cholangitis. Vanc and
   cefepime d/c
d on [**9-12**] as the OSH culture grew out pan-sensitive E.
   Coli
   - continue to hold home lisinopril given hypotension
   .
   # ACUTE RENAL FAILURE: Renal function improving, back to 2.2 which is
   the number he came in with. Unclear what his baseline is. C/w
   sepsis-induced pre-renal failure [**1-20**]  ATN. Urine lytes show a FeNa of
   0.5, pointing to a prerenal cause.  Pt appears to be in a diuresis
   phase currently.
   - monitor Cr levels
   .
   # CHOLANGITIS:  s/p ERCP.
   - continue cipro for E. coli bacteremia and cholangitis. Vanc and
   cefepime d/c
d on [**9-12**] as the OSH culture grew out pan-sensitive E.
   Coli
   - post ERCP labs have shown amylase/lipase less than [**Telephone/Fax (1) 8414**], which
   carries a very low risk for post-ERCP pancreatitis
   - serial abdominal exams after weaning off sedation
   .
   # THROMBOCYTOPENIA: resolving. HIT antibody neg.
   - continue to monitor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2110-9-9**] 08:00 PM
   Prophylaxis:
   DVT: Pneumoboots, SC heparin
   Stress ulcer: pantoprazole
   VAP:  bundle
   Comments:
   Communication:  Comments: wife and two daughters
   [**Name (NI) 129**] status: Full (discussed with patient)
   Disposition: ICU care

2110-09-14 08:10:00 Physician Attending Progress Note
TITLE: ICU Attending Progress Note
   Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    80 yo male with ascending cholangitis/E.coli sepsis s/p ERCP stent
   [**24**] Hour Events:
 INVASIVE VENTILATION - STOP [**2110-9-13**] 09:15 AM: Extubated
 ARTERIAL LINE - STOP [**2110-9-13**] 04:01 PM
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Valium (Oral) (Diazepam)
   agitation;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2110-9-12**] 04:20 AM
   Vancomycin - [**2110-9-12**] 12:05 PM
   Ciprofloxacin - [**2110-9-13**] 12:03 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2110-9-13**] 08:12 PM, Heparin
   Other medications: eye drops
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-9-14**] 08:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98
   HR: 69 (59 - 79) bpm
   BP: 130/60(78) {103/50(64) - 139/66(82)} mmHg
   RR: 20 (17 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.5 kg (admission): 96 kg
   Height: 69 Inch
   CVP: 9 (-2 - 13)mmHg
   Total In:
                                                                    660 mL
                                                                    202 mL
   PO:
                                                                     60 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    600 mL
                                                                     82 mL
   Blood products:
   Total out:
                                                                  4,180 mL
                                                                  1,060 mL
   Urine:
                                                                  4,180 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,520 mL
                                                                   -859 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   PS : 5 cmH2O
   PEEP: 0 cmH2O
   FiO2: 3%
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (+DP pulses/ radial pulses
   HEENT: PEERL, EOMI
   Lungs: rales R>L bases
   CV RRR no M/G/R
   Abd soft nontender +bs
   Ext calves nontender, no lower extr edema
   Skin:  normal turgor, no rashes
   Neurologic: Responds to: verbal commands, movements purposeful
   Labs / Radiology
   10.1 g/dL
   152 K/uL
   92 mg/dL
   2.0 ([**Month (only) 202**] mg/dL
   22 mEq/L
   3.5 mEq/L
   43 mg/dL
   111 mEq/L
   142 mEq/L
   29.6 %
   12.2 K/uL
        [image002.jpg]
                             [**2110-9-11**]  04:06 AM
                             [**2110-9-11**]  01:18 PM
                             [**2110-9-11**]  04:06 PM
                             [**2110-9-11**]  08:59 PM
                             [**2110-9-12**]  05:43 AM
                             [**2110-9-12**]  06:01 AM
                             [**2110-9-12**]  11:13 AM
                             [**2110-9-13**]  04:47 AM
                             [**2110-9-13**]  05:14 AM
                             [**2110-9-14**]  04:47 AM
   WBC
   8.7
   9.3
   12.2
   Hct
   30.8
   29.5
   29.6
   Plt
   68
   110
   152
   Cr
   2.5
   2.2
   2.0
   TCO2
   20
   18
   19
   19
   19
   19
   22
   Glucose
   127
   91
   92
   Other labs: PT / PTT / INR:13.0/25.0/1.1, ALT / AST:50/33, Alk Phos / T
   Bili:122/2.6, Amylase / Lipase:267/57, Lactic Acid:0.6 mmol/L,
   Albumin:2.5 g/dL, LDH:140 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
 IMPAIRED PHYSICAL MOBILITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 CHOLANGITIS
   80 yo male with ascending cholangitis/Ecoli sepsis s/p stent  and
   multiorgan failure initially with shock, respiratory failure, renal
   failure- responding to antibiotics with recovery of organ systems.
   Extubated yesterday.
   1. Acute respiratory failure-
   Resolved- extubated yesterday and currently on 2 liters n.c.
   2. Metabolic acidosis: resolved
   3. Ecoli sepsis/ascending cholangitis
   Appropriately treated with no fevers/leukocytosis to suggest recurrent
   infxn.
   On cipro to complete a [**10-1**] day course
   LFT
s slowly improving
   4. ARF: improving with Cr of 2.0 today, unclear baseline
   5. Thrombocytopenia: counts continuing to improve
   6. Leukocytosis: mild increase in WBC, as pt afebrile will not augment
   abx. Possible sources should he spike would include GI (E.coli cx was
   pre-ERCP) and if CXR supportive, aspiration
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2110-9-9**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :to floor
   Total time spent: